US07041685B2
5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-methyl-1H-pyrazole
5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-methyl-4,5-dihydro-1H-pyrazole: The title compound was prepared from 3-(4-chloro-phenyl)-1-(3-chloro-thiophen-2-yl)-propenone (50 mg, 0.176 mmol) and methylhydrazine (9 μL, 0.17 mmol) by a procedure similar to Example 105a as a yellowish oil (20.9 mg, 38%). 1H NMR (CDCl3): 7.24 (m, 4H), 7.09 (d, J=6.6 Hz, 1H), 6.75 (d, J=6.60 Hz, 1H), 4.08 (m, 1H), 3.83 (m, 1H), 2.98 (t, 1H), 2.67 (s, 3H).

reactant | 5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-methyl-4,5-dihydro-1H-pyrazole | ClC1=CC=C(C=C1)C1CC(=NN1C)C=1SC=CC1Cl | C14H12Cl2N2S
reactant | methylhydrazine | 0.17 mmol, 9 μL | CNN | CH6N2
product | 5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-methyl-1H-pyrazole | ClC1=CC=C(C=C1)C1=CC(=NN1C)C=1SC=CC1Cl | C14H10Cl2N2S
